US04652567
(±)-1-[(4-Methoxyphenyl)methyl]-5-oxo-2-pyrrolidinecarboxylic acid
A solution of 16.80 g of sodium hydroxide pellets in 175 ml of water was treated with 75 g of (±)-1-[(4-methoxyphenyl)methyl]-5-methoxycarbonyl-2-pyrrolidinone and the mixture was heated for two hours with a steam bath. The solution was cooled to room temperature and extracted with diethyl ether (2×300 ml). The aqueous phase was acidified to about pH=1 with 50 ml of concentrated hydrochloric acid and extracted with dichloromethane (3×250 ml). The dried (Na2SO4) organic phase was vacuum filtered and concentrated to an oil which solidified on standing (80 g). The solid was recrystallized from toluene (300 ml) to give 34.18 g of crystals, m.p. 103°-104.5° C.

reactant | sodium hydroxide | 16.80 g | [OH-].[Na+]
reactant | (±)-1-[(4-methoxyphenyl)methyl]-5-methoxycarbonyl-2-pyrrolidinone | 75 g | COC1=CC=C(C=C1)CN1C(CCC1C(=O)OC)=O | C14H17NO4
solvent | water | 175 ml | O | H2O
product | (±)-1-[(4-Methoxyphenyl)methyl]-5-oxo-2-pyrrolidinecarboxylic acid | 34.18 g | COC1=CC=C(C=C1)CN1C(CCC1=O)C(=O)O | C13H15NO4
